US06878704B2
Preparation 19 7-(4-(t-Butyloxycarbonyl)piperazin-1-yl)-1-ethyl-4-oxo-1,4-dihydro-6,8-diazaquinoline-3-carboxylic acid
7-(1-Piperazinyl)-1-ethyl-4-oxo-1,4-dihydro-6,8-diazaquinoline-3-carboxylic acid (607 mg) in dichloromethane (20 ml) was heated with triethylamine (405 mg) and di-tert-butyldicarbonate (873 mg). The mixture was stirred overnight at ambient temperature then oncentrated in vacuo. The product was collected by filtration, washed with hexane and dried in vacuo to give a white solid (682 mg). MS (−ve ion electrospray) m/z 402 ([M−H]−, 100%).

reactant | 7-(1-Piperazinyl)-1-ethyl-4-oxo-1,4-dihydro-6,8-diazaquinoline-3-carboxylic acid | 607 mg | N1(CCNCC1)C1=NC=C2C(C(=CN(C2=N1)CC)C(=O)O)=O | C14H17N5O3
reactant | triethylamine | 405 mg | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 873 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 7-(4-(t-Butyloxycarbonyl)piperazin-1-yl)-1-ethyl-4-oxo-1,4-dihydro-6,8-diazaquinoline-3-carboxylic acid | 682 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C2C(C(=CN(C2=N1)CC)C(=O)O)=O | C19H25N5O5
